US08614208B2
Production of 3-(3-fluorobenzyl)-N-[1-(hydroxyacetyl)piperidin-4-yl]-2,7-dimethyl-4-oxo-5-(2,2,2-trifluoroethoxy)-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidine-6-carboxamide
A mixture of the compound of Reference Example 47 (84 mg, 0.19 mmol), 1N aqueous sodium hydroxide solution (2 mL), THF (2 mL) and ethanol (2 mL) was stirred at 60° C. for 3 hr. The reaction mixture was neutralized with 2N hydrochloric acid (1 mL), and concentrated under reduced pressure, and the precipitate was filtered and washed with water to give 3-(3-fluorobenzyl)-2,7-dimethyl-4-oxo-5-(2,2,2-trifluoroethoxy)-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid as a powder (59 mg, 75%). A mixture of 3-(3-fluorobenzyl)-2,7-dimethyl-4-oxo-5-(2,2,2-trifluoroethoxy)-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid (59 mg, 0.14 mmol), 2-(4-aminopiperidin-1-yl)-2-oxoethanol hydrochloride (35 mg, 0.18 mmol), HOBt (28 mg, 0.18 mmol), WSCD (35 mg, 0.18 mmol) and triethylamine (18 mg, 0.18 mmol) in DMF (5 mL) was stirred at room temperature for 16 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and brine, and dried over anhydrous sodium sulfate. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by aminosilica gel column chromatography (eluate, hexane:ethyl acetate=1:1→0:100), and recrystallized from ethyl acetate-hexane to give the title compound (13 mg, 17%) as a white powder.

reactant | 3-(3-fluorobenzyl)-2,7-dimethyl-4-oxo-5-(2,2,2-trifluoroethoxy)-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid | 0.14 mmol, 59 mg | FC=1C=C(CN2C(=NC3=C(C2=O)C(=C(N3C)C(=O)O)OCC(F)(F)F)C)C=CC1 | C18H15F4N3O4
reactant | 2-(4-aminopiperidin-1-yl)-2-oxoethanol hydrochloride | 0.18 mmol, 35 mg | Cl.NC1CCN(CC1)C(CO)=O
reactant | HOBt | 0.18 mmol, 28 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.18 mmol, 18 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 3-(3-fluorobenzyl)-N-[1-(hydroxyacetyl)piperidin-4-yl]-2,7-dimethyl-4-oxo-5-(2,2,2-trifluoroethoxy)-4,7-dihydro-3H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 13 mg, 17% | FC=1C=C(CN2C(=NC3=C(C2=O)C(=C(N3C)C(=O)NC3CCN(CC3)C(CO)=O)OCC(F)(F)F)C)C=CC1 | C25H27F4N5O5
